US05321029
1,3-Di-cyclopentylmethyl-7-(2-oxopropyl)-xanthine
1,3-Di-cyclopentylmethyl-7-(2-oxopropyl)-xanthine was prepared from 1,3-di-cyclopentylmethyl xanthine and chloroacetone using an analogous procedure to that described in Example 5. The title compound was isolated as a crystalline solid, m.p. 144° C.

reactant | 1,3-di-cyclopentylmethyl xanthine | C1(CCCC1)CN1C(=O)N(C=2N=CNC2C1=O)CC1CCCC1 | C17H24N4O2
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 1,3-Di-cyclopentylmethyl-7-(2-oxopropyl)-xanthine | C1(CCCC1)CN1C(=O)N(C=2N=CN(C2C1=O)CC(C)=O)CC1CCCC1 | C20H28N4O3
